US06995263B2
b] [2-Methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol
A solution of 2-methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester (200 mg, 0.5 mmol) in diethyl ether (3 ml) was added to a suspension of lithium aluminium hydride (40 mg, 1 mmol) in diethyl ether (6 ml) under an argon atmosphere at ambient temperature within 5 min. The mixture was stirred at reflux for 12 h, cooled to 0° C. and treated cautiously with ice water (6 ml) and 10% aqueous NaOH (3 ml). The reaction mixture was filtered over celite, t-butyl methylether was added and the layers were separated. The aqueous layer was extracted one more time with t-butyl methylether, the combined organic layers were washed with ice water/brine 1/1 and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a brown oil which was purified by column chromatography (silica gel, heptane/AcOEt) to yield 80 mg (240 μmol, 45%) of the title compound as yellow crystals.

reactant | 2-methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester | 0.5 mmol, 200 mg | C(C)OC(C1=C(N=C(C=C1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C)=O | C17H13F6NO2
reactant | lithium aluminium hydride | 1 mmol, 40 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 3 ml | [OH-].[Na+]
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | [2-Methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 240 μmol, 80 mg, 45% | CC1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C15H11F6NO
